US04271048
b. 3-(2-Dimethylaminoethyl)-7-hydroxy-nona-1,8-diene
A stirred mixture of 3,7-dihydroxy-nona-1,8-diene (181.5 g; 1.16 M), 2-dimethylaminoethylchloride hydrochloride (201 g; 1.4 M), powdered NaOH (163 g; 4.07 M) and toluene (2.4 l) was refluxed during 4.5 h. The reaction mixture was cooled and washed successively with H2O and sat. brine. Work-up and fractional distillation in vacuo (spinning band) gave the title compound as a colourless oil (142 g) (54%) bp. 85°-90°/0.05 Torr, GC (5% Carbowax®) 240°/4.8 min., RF 0.38 [methanol/EtOAc (9:1]; NMR (δ) 1.5 (c, 6H; aliphatic CH2), 2.21 [s, 6H; (CH3)2N], 2.49 (t, J 7 Hz, 2H; CH2N), 3.16* (bs, 1H, OH), 3.15-4.2 [c, 4H, CH2 (O) and CH(O)] and 4.9-6.2 (c, 6H; olefinic H) (*D2O exchange removes this signal); IR (cm-1) 3400 (b), 3080, 1645, 1460, 995 and 920.

reactant | 3,7-dihydroxy-nona-1,8-diene | 1.16 M, 181.5 g | OC(C=C)CCCC(C=C)O | C9H16O2
reactant | 2-dimethylaminoethylchloride hydrochloride | 1.4 M, 201 g | Cl.CN(CCCl)C
reactant | NaOH | 4.07 M, 163 g | [OH-].[Na+]
solvent | toluene | 2.4 l | C1(=CC=CC=C1)C | C7H8
product | 3-(2-Dimethylaminoethyl)-7-hydroxy-nona-1,8-diene | 142 g, 54% | CN(CCC(C=C)CCCC(C=C)O)C | C13H25NO
